US06518270B1
Synthesis of 2,3-dimethyl-8-(2,6-dimethylbenzyloxy)imidazo[1,2-a]pyrazine
Sodium hydride (0.15 g, 3 mmol) (50% in oil) was added to a stirred solution of 2,6-dimethylbenzylalcohol in acetonitril (10 ml). 8-chloro-2,3-dimethylimidazo[1,2-a]pyrazine (0.4 g, 3 mmol) was added and the reaction mixture was refluxed for 20 h. The solvent was evaporated under reduced pressure and the residue was solved in methylene chloride and washed with water. The organic layer was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using ethylacetate:petroleum ether(40-60) 1:1 as eluent. Crystallization from petroleum ether gave 0.42 g (50%) of the title compound.

reactant | Sodium hydride | 3 mmol, 0.15 g | [H-].[Na+]
reactant | 2,6-dimethylbenzylalcohol | CC1=C(CO)C(=CC=C1)C | C9H12O
reactant | 8-chloro-2,3-dimethylimidazo[1,2-a]pyrazine | 3 mmol, 0.4 g | ClC=1C=2N(C=CN1)C(=C(N2)C)C | C8H8ClN3
solvent | acetonitril | 10 ml | C(C)#N | C2H3N
product | 2,3-dimethyl-8-(2,6-dimethylbenzyloxy)imidazo[1,2-a]pyrazine | 0.42 g, 50% | CC=1N=C2N(C=CN=C2OCC2=C(C=CC=C2C)C)C1C | C17H19N3O
